US08097759B2
5-Chloro-N-[2-fluoro-3-(trifluoromethyl)phenyl]-2-hydroxybenzamide (Compound No. 107)
Using 5-chlorosalicylic acid and 2-fluoro-3-(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 2-fluoro-3-(trifluoromethyl)aniline | FC1=C(N)C=CC=C1C(F)(F)F | C7H5F4N
product | 5-Chloro-N-[2-fluoro-3-(trifluoromethyl)phenyl]-2-hydroxybenzamide | Yield: 71.7% | ClC=1C=CC(=C(C(=O)NC2=C(C(=CC=C2)C(F)(F)F)F)C1)O | C14H8ClF4NO2
